Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.38814691481
[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.93147573142
[H:1].[O:2]=[C:3]=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],-2.95455674017
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[C:4])[C:9]([H:10])([H:11])[O:12][H:13],3.98783193383
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.82949619542
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6],4.16094375016
[C:1]=[C:2]1[O:3][C:4]1([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]([C:2]([O:3][C:4]#[C:5])[C:9]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8],0.5065513258300001
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.580270854559999
[H:1][O:2][C:3]/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]=[C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],5.93037919461
[C:1]=[C:2]([O:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[O:3][O:4][H:5],1.87885754711
[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[C:13]([H:14])([H:15])[H:16],4.07996748432
[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:11])[C:8]([H:9])[H:10].[O:1],5.27689034982
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])[H:12],4.57925491649
[C:4]([H:5])([H:6])[H:10].[H:1][C:2](=[C:3]=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.24007503002
[H:1][C:2]=[C:3]([C:4]#[C:5])[O:7][O:8][H:9].[H:6]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][O:8][H:9],-5.53551859013
[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.930439243
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],5.45066397153
[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.19508038482
[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-0.9859503129
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9],3.34014308231
[H:13].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],-4.40959702438
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14]>>[O:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:12]([H:13])[H:14],2.83353510177
[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.73475014902
[H:11].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.2890608388599984
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10]>>[C:5]([H:6])[C:7]([H:8])=[C:9][H:10].[O:1][C:2]#[C:3][H:4],4.854191424780001
[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-5.9725486957300005
